US06806365B2
A 500 mL cylindrical glass vessel equipped with a coarse glass frit was charged with N-[(9H-fluoren-9-ylmethoxy)carbonyl]-4-[[(2-propenyloxy)carbonyl]amino]-L-phenylalanine substituted Wang resin (10 g, 7.5 mmol) obtained from Example 61 and a solution prepared from bis(triphenylphosphine)palladium dichloride (1.6 g, 2.3 mmol) and acetic acid (5 mL, 83 mmol) in dried dichloromethane (150 mL). The resulting mixture was agitated for 30 minutes followed by the addition of tri-n-butyl tin hydride (20 mL, 74.3 mmol). The resulting mixture was agitated for 1 hr. To the mixture was added tri-n-butyl tin hydride (10 mL, 37 mmol). Agitation was continued for 1 hour and the mixture was filtered. To the resulting resin was added a solution prepared from bis(triphenylphosphine)palladium dichloride (1.6 g, 2.3 mmol) and acetic acid (5 mL, 83 mmol) in dry dichloromethane (150 mL). The mixture was agitated for 30 minutes followed by the addition of tri-n-butyl tin hydride (20 mL, 74.3 mmol). The resulting mixture was agitated 1 hour. To the mixture was added additional tri-n-butyl tin hydride (10 mL, 37.15 mmol). Agitation was continued for 1 hour. After the second deprotection cycle, the mixture was washed with dichloromethane (2×100 mL), methanol (2×100 mL) and dimethylformamide (2×100 mL) to give 4-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine on Wang resin suitable for use in subsequent steps.

reactant | N-[(9H-fluoren-9-ylmethoxy)carbonyl]-4-[[(2-propenyloxy)carbonyl]amino]-L-phenylalanine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CC1=CC=C(C=C1)NC(=O)OCC=C)C(=O)O | C28H26N2O6
reactant | acetic acid | 83 mmol, 5 mL | C(C)(=O)O | C2H4O2
reactant | tri-n-butyl tin hydride | 74.3 mmol, 20 mL | C(CCC)[SnH](CCCC)CCCC
reactant | tri-n-butyl tin hydride | 37 mmol, 10 mL | C(CCC)[SnH](CCCC)CCCC
reactant | acetic acid | 83 mmol, 5 mL | C(C)(=O)O | C2H4O2
reactant | tri-n-butyl tin hydride | 74.3 mmol, 20 mL | C(CCC)[SnH](CCCC)CCCC
reactant | tri-n-butyl tin hydride | 37.15 mmol, 10 mL | C(CCC)[SnH](CCCC)CCCC
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | bis(triphenylphosphine)palladium dichloride | 2.3 mmol, 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium dichloride | 2.3 mmol, 1.6 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-amino-N-[(9H-fluoren-9-ylmethoxy)carbonyl]-L-phenylalanine | NC1=CC=C(C[C@H](NC(=O)OCC2C3=CC=CC=C3C=3C=CC=CC23)C(=O)O)C=C1 | C24H22N2O4
